US07935815B2
Synthesis of (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylic acid
A 5 N sodium hydroxide solution (4 mL) was added to a solution of ethyl (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylate (1.5 g) in methanol (10 mL) and THF (6 mL). The reaction solution was stirred at room temperature for two hours, and then 5 N hydrochloric acid (5 mL) was added to the reaction solution. The generated precipitate was filtered and washed with THF to obtain 755 mg of the title compound. The property values of the compound are as follows.

reactant | sodium hydroxide | 5 N, 4 mL | [OH-].[Na+]
reactant | ethyl (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylate | 1.5 g | COC1=C(C=CC(=N1)/C=C/C(=O)OCC)N1C=NC(=C1)C | C15H17N3O3
reactant | hydrochloric acid | 5 N, 5 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylic acid | 755 mg | COC1=C(C=CC(=N1)/C=C/C(=O)O)N1C=NC(=C1)C | C13H13N3O3
